US06096246
5,7-Dimethoxy-3-methyl-1-naphthol is synthesized from N,N-diethyl-3,5-dimethoxybenzamide and 3-bromo-2-methylpropene according to the method described by Sibi et al. (J. Org. Chem. 1986, Vol. 51, pp. 271-273). The yield is approximately 50%.

reactant | N,N-diethyl-3,5-dimethoxybenzamide | C(C)N(C(C1=CC(=CC(=C1)OC)OC)=O)CC | C13H19NO3
reactant | 3-bromo-2-methylpropene | BrCC(=C)C | C4H7Br
reactant | Sibi | CC(C)CSC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2NC=NC3=O)O)O | C14H20N4O4S
product | 5,7-Dimethoxy-3-methyl-1-naphthol | yield is approximately 50% | COC1=C2C=C(C=C(C2=CC(=C1)OC)O)C | C13H14O3
